US08003647B2
(4-Methoxy-5-methyl-2-nitrophenyl)acetonitrile
To a solution of cyano-(4-methoxy-5-methyl-2-nitrophenyl)acetic acid methyl ester in methanol (1.7 mL) was added 6 mol/L hydrochloric acid (1.7 mL), and this mixture was heated under reflux for 9 hours. After cooling to ambient temperature, this organic solvent was removed under reduced pressure and resulting mixture was extracted with ethyl acetate. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate) to give the title compound (0.25 g).

reactant | cyano-(4-methoxy-5-methyl-2-nitrophenyl)acetic acid methyl ester | COC(C(C1=C(C=C(C(=C1)C)OC)[N+](=O)[O-])C#N)=O | C12H12N2O5
reactant | hydrochloric acid | 6 mol/L, 1.7 mL | Cl | ClH
solvent | methanol | 1.7 mL | CO | CH4O
product | (4-Methoxy-5-methyl-2-nitrophenyl)acetonitrile | 0.25 g | COC1=CC(=C(C=C1C)CC#N)[N+](=O)[O-] | C10H10N2O3
